US07241791B2
Step 2: 4-(7-fluoro-2-isobutyl-2H-indazole-3-yl)benzene-1,3-diol
Prepared according to Method D step C from 3-(2,4-dimethoxyphenyl)-7-fluoro-2-isobutyl-2H-indazole (0.036 g, 0.1 mmol), boron tribromide (0.083 mL, 0.9 mmol) and 1.0 mL of cyclohexene to give the product (0.024 g) as a white solid.

reactant | 3-(2,4-dimethoxyphenyl)-7-fluoro-2-isobutyl-2H-indazole | 0.1 mmol, 0.036 g | COC1=C(C=CC(=C1)OC)C=1N(N=C2C(=CC=CC12)F)CC(C)C | C19H21FN2O2
reactant | boron tribromide | 0.9 mmol, 0.083 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 1.0 mL | C1=CCCCC1 | C6H10
product | 4-(7-fluoro-2-isobutyl-2H-indazole-3-yl)benzene-1,3-diol | 0.024 g | FC1=CC=CC2=C(N(N=C12)CC(C)C)C1=C(C=C(C=C1)O)O | C17H17FN2O2
